US08389523B2
9.2 g (62.9 mmol) of N-(2-propynyl) 1,2-phenylenediamine and 12.1 g (69.2 mmol) of diethyl ketomalonate were dissolved in toluene (100 mL), and the solution was refluxed for 3 hours. After confirming the completion of the reaction, the reaction solution was concentrated under reduced pressure, and the solid matter thus obtained was washed with diisopropyl ether, to obtain 15.0 g (yield: 93%) of ethyl 2-oxo-1-(2-propynyl)-1,2-dihydroquinoxaline-3-carboxylate as a white powder.

reactant | N-(2-propynyl) 1,2-phenylenediamine | 62.9 mmol, 9.2 g | C(C#C)NC1=C(C=CC=C1)N | C9H10N2
reactant | diethyl ketomalonate | 69.2 mmol, 12.1 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-oxo-1-(2-propynyl)-1,2-dihydroquinoxaline-3-carboxylate | 15.0 g, yield: 93% | O=C1N(C2=CC=CC=C2N=C1C(=O)OCC)CC#C | C14H12N2O3
